US03974156
A solution of 2-allyloxymethyl-4-n-propylmorpholin-5-one (65 g.) in dry ether (100 ml.) is added slowly with stirring to a suspension of lithium aluminium hydride (17.5 g.) in dry ether (700 ml.). The rate of addition is adjusted so that the reaction mixture refluxes gently. When the addition is complete the reaction mixture is stirred at ambient temperature (18°-20°C.) for 18 hours and then water (90 ml.) is added very carefully dropwise to decompose the complex and excess of lithium aluminium hydride. The ethereal solution is filtered and the solid residue is washed with ether. The filtrate and ethereal washings are combined, dried (Na2SO4), filtered and the ether evaporated. The product, 2-allyloxymethyl-4-n-propylmorpholine is obtained as an oil b.p. 80°-90°C. at 1 m.m. which forms a hydrogen oxalate, m.p. 125°-127°C.

reactant | 2-allyloxymethyl-4-n-propylmorpholin-5-one | 65 g | C(C=C)OCC1CN(C(CO1)=O)CCC | C11H19NO3
reactant | lithium aluminium hydride | 17.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 90 ml | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 700 ml | CCOCC | C4H10O
product | 2-allyloxymethyl-4-n-propylmorpholine | C(C=C)OCC1CN(CCO1)CCC | C11H21NO2
